US08202856B2
Step 2: 4-[1-(2-fluorophenyl)-4-(3-piperidin-4-yl-1,2,4-oxadiazol-5-yl)-1H-1,2,3-triazol-5-yl]pyridine hydrochloride
To a suspension of tert-butyl 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)piperidine-1-carboxylate, obtained in Step 1, (601 mg; 1.22 mmol) in MeOH (30 mL) was added HCl (3 M, 30 mL) and the mixture was heated at 50° C. for 5 hours. The solvent was removed in vacuo affording the title compound as a white solid (462 mg; 96%). 1H NMR: (DMSO-d6, 400 MHz) δ 9.38-9.36 (1H, m), 9.26-9.24 (1H, m), 8.88 (2H, d, J=5.4 Hz), 7.94-7.84 (3H, m), 7.76-7.69 (1H, m), 7.55-7.46 (2H, m), 3.34-3.24 (3H, m), 3.06 (2H, q, J=11.1 Hz), 2.14 (2H, d, J=13.8 Hz), 2.04-1.90 (2H, m). LC/MS (Method C): 392 (M+H)+. HPLC (Method E) Rt 2.14 min (Purity: 97.5%).

reactant | tert-butyl 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)piperidine-1-carboxylate | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1CCN(CC1)C(=O)OC(C)(C)C | C25H26FN7O3
reactant | HCl | 3 M, 30 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 4-[1-(2-fluorophenyl)-4-(3-piperidin-4-yl-1,2,4-oxadiazol-5-yl)-1H-1,2,3-triazol-5-yl]pyridine hydrochloride | 462 mg, 96% | Cl.FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1CCNCC1 | InChI=1S/C20H18FN7O.ClH/c21-15-3-1-2-4-16(15)28-18(13-5-9-22-10-6-13)17(25-27-28)20-24-19(26-29-20)14-7-11-23-12-8-14;/h1-6,9-10,14,23H,7-8,11-12H2;1H
